US07202364B2
4-Trifluoromethoxyaniline (100 g, 0.58 mol), di-tert-butyl carbonate (127 g, 0.58 mol) and 1 N NaOH solution (250 mL) are dissolved in THF (200 mL) and stirred at room temperature for 12 hours. The reaction mixture is extracted with EtOAc (500 mL). The organic layer is washed with 1 N HCl (500 mL), brine (250 mL) and dried (MgSO4). The solvent is removed by rotary evaporator to give N-BOC-4-trifluoromethoxyaniline.

reactant | 4-Trifluoromethoxyaniline | 0.58 mol, 100 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | di-tert-butyl carbonate | 0.58 mol, 127 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | NaOH | 1 N, 250 mL | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-BOC-4-trifluoromethoxyaniline | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)OC(F)(F)F | C12H14F3NO3
